US04731367
680 mg of terguride (2 mmol) is dissolved in 120 ml of acetonitrile and 5.5 ml of triethylamine and, under ice cooling, a solution of 3.5 ml of chlorosulfonyl isocyanate in 40 ml of acetonitrile is added dropwise thereto under an argon atmosphere. The ice bath is removed and the mixture allowed to stand for two days at room temperature. To facilitate isolation of the polar by-products, the mixture is combined with 20 ml of diethylamine and stirred for three hours at room temperature. Then the mixture is diluted with methylene chloride, extracted with 1N sodium hydroxide solution, and the water phase is once more extracted. The combined organic phases are dried with sodium sulfate and evaporated. The residue is chromatographed on silica gel with a mixture of methylene chloride and methanol, thus isolating 229 mg (31% of theory) of crude 3-(2-cyano-6-methyl-8α-ergolinyl)-1,1-diethylurea. Ater crystallizing from ethyl acetate, 92 mg is obtained as the pure compound.

reactant | terguride | 2 mmol, 680 mg | CCN(CC)C(=O)N[C@H]1C[C@@H]2C3=CC=CC4=C3C(=CN4)C[C@H]2N(C1)C | C20H28N4O
reactant | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
reactant | chlorosulfonyl isocyanate | 3.5 ml | ClS(=O)(=O)N=C=O | CClNO3S
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-(2-cyano-6-methyl-8α-ergolinyl)-1,1-diethylurea | 229 mg, 31% | C(#N)C1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C21H27N5O
